US08012956B2
A mixture of methyl 2-bromo-3-methoxybenzoate (0.4 g, 1.63 mmol), Pd(PPh3)2Cl2 (0.057 g, 0.082 mmol), copper (I) iodide (0.031 g, 0.16 mmol) and 3-butyn-1-ol (0.173 ml, 2.28 mmol) were stirred in trietylamine (5 ml) at 80° C. for 20 h. The solvent was concentrated under vacuum, and the residue was partitioned between ethyl acetate (15 ml) and water (5 ml). The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography using hexanes:ethyl acetate 2:1 as eluent to afford methyl 2-(4-hydroxybut-1-yn-1-yl)-3-(methyloxy)benzoate (0.056 g; 15% yield). MS (EI) for C13H14O4: 235 (MH+).

reactant | methyl 2-bromo-3-methoxybenzoate | 1.63 mmol, 0.4 g | BrC1=C(C(=O)OC)C=CC=C1OC | C9H9BrO3
reactant | 3-butyn-1-ol | 2.28 mmol, 0.173 ml | C(CC#C)O | C4H6O
solvent | trietylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.082 mmol, 0.057 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.16 mmol, 0.031 g | [Cu]I
product | methyl 2-(4-hydroxybut-1-yn-1-yl)-3-(methyloxy)benzoate | 0.056 g, 15% yield | OCCC#CC1=C(C(=O)OC)C=CC=C1OC | C13H14O4
